US06492394B1
A solution of 2(R)-[(N-tert-butoxycarbonylindol-5-ylmethyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (2.7 g. 4.45 mmol) and trifluoroacetic acid (5 mL) in methylene chloride (15 mL) was stirred for 2 h at room temperature. The organics were removed under vacuum and the residue was dissolved in ethyl acetate (80 mL) and the ethyl acetate layer was washed with 5% sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and concentrated to give a white foamy solid which was chromatographed on a silica gel column eluting with (5-100%) ethyl acetate/hexanes. This procedure gave 2(R)-[(1H-indol-5-yl-methyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (1.7 g) as a white foamy semi-solid, which was converted to 2(R)-[(1H-indol-5-ylmethyl)-(4-methoxy-benzenesulfonyl)amino]-3-methylbutyric acid by following the procedure described in Example 1, Step 6 above.

reactant | 2(R)-[(N-tert-butoxycarbonylindol-5-ylmethyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester | 4.45 mmol, 2.7 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C)=O | C33H38N2O7S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-[(1H-indol-5-yl-methyl)-(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester | 1.7 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC=1C=C2C=CNC2=CC1)=O | C28H30N2O5S
